US07217730B2
To a solution of {1-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-8-fluoro-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-5-yl}-morpholin-4-yl-methanone (350 mg, 0.693 mmol) in THF (5 mL) was added TBAF (0.832 mL of 1.0 M in THF, 0.832 mmol) at room temperature. After stirring for 4 hours at room temperature, the reaction mixture was diluted with EtOAc (20 mL). The organic solution was washed with 0.5 N HCl (20 mL) and brine (20 mL), dried (Na2SO4) and concentrated. The residue was purified by flash chromatography (silica, 50% EtOAc in hexanes) to give 254 mg (94%) of [8-fluoro-1-(2-hydroxy-ethyl)-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-5-yl]-morpholin-4-yl-methanone as white solid.

reactant | {1-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-8-fluoro-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-5-yl}-morpholin-4-yl-methanone | 0.693 mmol, 350 mg | C(C)(C)(C)[Si](OCCC1(OCCC2=C1NC1=C(C=CC(=C21)C(=O)N2CCOCC2)F)CCC)(C)C | C27H41FN2O4Si
reactant | TBAF | 0.832 mmol, 1.0 M, 0.832 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | [8-fluoro-1-(2-hydroxy-ethyl)-1-propyl-1,3,4,9-tetrahydro-pyrano[3,4-b]indol-5-yl]-morpholin-4-yl-methanone | 254 mg, 94% | FC=1C=CC(=C2C3=C(NC12)C(OCC3)(CCC)CCO)C(=O)N3CCOCC3 | C21H27FN2O4
